US06410534B1
Step B: 1-(tert-Butoxycarbonylamino)-7-(tert-butyldiphenylsilyloxy)naphthalene
A mixture of 8-(tert-butoxycarbonylamino)-2-naphthol, as described above in Step A, (35 g, 0.135 mol), tert-butyldiphenylsilyl chloride (40.9 g, 0.149 mmol), and imidazole (18.4 g, 0.270 mmol) in dry, degassed DMF (300 mL) was stirred, under argon, at 50° C. for 18 hrs. The solvent was removed under reduced pressure and the residue was partitioned between saturated aqueous NaHCO3 (500 mL) and EtOAc (1 L). The aqueous layer was extracted further with EtOAc (300 mL) and the combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with a gradient of hexane −25% to 45% CH2Cl2 to yield the desired product as a pale solid.

reactant | 8-(tert-butoxycarbonylamino)-2-naphthol | C(C)(C)(C)OC(=O)NC=1C=CC=C2C=CC(=CC12)O | C15H17NO3
reactant | tert-butyldiphenylsilyl chloride | 0.135 mol, 35 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
reactant | imidazole | 0.270 mmol, 18.4 g | N1C=NC=C1 | C3H4N2
product | 1-(tert-Butoxycarbonylamino)-7-(tert-butyldiphenylsilyloxy)naphthalene | C(C)(C)(C)OC(=O)NC1=CC=CC2=CC=C(C=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C31H35NO3Si
